US06737425B1
108-1) 2-(4-Bromophenoxy)ethanol
In a nitrogen atmosphere, 4-bromophenol 5.0 g, 2-bromoethanol 5.42 g, and potassium carbonate 12.0 g were added to N,N-dimethylformamide 30 ml, and the mixture was stirred at 100° C. After 1 hour, the mixture was cooled to room temperature and partitioned by adding water and diethyl ether. The organic layer was washed with water and brine, dried over magnesium sulfate anhydride and evaporated. The residue was purified by silica gel column chromatography (hexane/ethyl acetate system), whereby the title compound 5.15 g, 82% was obtained as a colorless crystalline.

reactant | 4-bromophenol | 5.0 g | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | 2-bromoethanol | 5.42 g | BrCCO | C2H5BrO
reactant | potassium carbonate | 12.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 2-(4-Bromophenoxy)ethanol | BrC1=CC=C(OCCO)C=C1 | C8H9BrO2
